US07932246B2
2-{[3-(2-Naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylic acid
To a solution of ethyl 2-{[3-(napthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylate (127 mg, 0.29 mmol) in THF (5 ml) and MeOH (1 ml) was added 1M NaOH (4 ml). The solution was stirred at r.t. for 2.5 h. The reaction mixture was acidified to pH˜⅚ with 2M HCl to give a white precipitate which was collected by filtration, washed with water and dried in vacuo to give the title compound as a white solid (105 mg, 88%). LC-MS purity 100%, m/z 411 [M+H]+.

reactant | ethyl 2-{[3-(napthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylate | 0.29 mmol, 127 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C2C1)NC1=NC=C(C=N1)C(=O)OCC | C22H22N4O4S
reactant | NaOH | 1M, 4 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
product | 2-{[3-(2-Naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylic acid | 105 mg, 88% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C2C1)NC1=NC=C(C=N1)C(=O)O | C20H18N4O4S
